US08357705B2
2-(1H-indol-3-yl)-1-phenylethanone-oxime
2-(1H-indol-3-yl)-1-phenylethanone (0.97 g, 4.12 mmol) dissolved in absolute ethanol (20 ml) was added to a solution of hydroxylamine hydrochloride (0.97 g, 13.95 mmol) and potassium acetate (1.54 g, 15.74 mmol) in absolute ethanol (20 ml). This reaction mixture was stirred for 24 h at room temperature. The batch was then boiled for 3 h with reflux. The batch was then dissolved in water (20 ml) at 70° C. The batch was then left to stand for 5 h at 4° C. Since no solid separated out, the volatile constituents were removed completely in a vacuum. The residue was mixed with water (10 ml) and the pH value of the solution adjusted to pH 11 with 5N sodium hydroxide solution. The mixture was then extracted with ethyl acetate (5×30 ml). The combined organic phases were dried with sodium sulphate, filtered and all the volatile constituents removed in a vacuum. Yield: 90% (990 mg) yellow-brown oil

reactant | 2-(1H-indol-3-yl)-1-phenylethanone | 4.12 mmol, 0.97 g | N1C=C(C2=CC=CC=C12)CC(=O)C1=CC=CC=C1 | C16H13NO
reactant | hydroxylamine hydrochloride | 13.95 mmol, 0.97 g | Cl.NO
reactant | potassium acetate | 15.74 mmol, 1.54 g | C(C)(=O)[O-].[K+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 2-(1H-indol-3-yl)-1-phenylethanone-oxime | 990 mg, Yield: 90% | N1C=C(C2=CC=CC=C12)CC(=NO)C1=CC=CC=C1 | C16H14N2O
